US07446216B2
1-Methoxy-2-methyl-4-indanol
To a solution of 20.0 g (83.0 mmol) of 4-bromo-1-methoxyindane in 200 ml of THF, 33.2 ml of 2.5 M nBuLi (83.0 mmol) in hexanes was added with vigorous stirring over 1 hour at −78° C. under an argon atmosphere. Then, 28.7 ml (23.4 g, 124 mmol) of triisopropylborate was added at this temperature. The resulting mixture was slowly warmed to ambient temperature, and then 7.15 ml (7.50 g, 125 mmol) of glacial acetic acid was added. The resulting mixture was cooled to 0° C., and then 27.6 ml of 10% H2O2 was added. This mixture was stirred for ca. 30 minutes at room temperature, and then 300 ml of water was added. The product was extracted with 3×150 ml of CH2Cl2. The combined extract was dried over Na2SO4 and evaporated to dryness. The analytically pure product was obtained by flash chromatography on Silica Gel 60 (40-63 μm, d 50 mm, l 350 mm, eluant: hexanes-ether=2:1, vol.). Yield, 9.90 g (67%).

reactant | 4-bromo-1-methoxyindane | 83.0 mmol, 20.0 g | BrC1=C2CCC(C2=CC=C1)OC | C10H11BrO
reactant | nBuLi | 83.0 mmol, 2.5 M, 33.2 ml | [Li]CCCC
reactant | triisopropylborate | 124 mmol, 28.7 ml, 23.4 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | acetic acid | 125 mmol, 7.15 ml, 7.50 g | C(C)(=O)O | C2H4O2
reactant | H2O2 | 27.6 ml | OO | H2O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 1-Methoxy-2-methyl-4-indanol | COC1C(CC=2C(=CC=CC12)O)C | C11H14O2
